US04388317
Reaction of 4-(3-methoxypyridyl)butylamine with 2-nitroamino-5-(4-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone gives 2-[4-(3-methoxypyridyl)butyl-amino]-5-(4-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone.

reactant | 4-(3-methoxypyridyl)butylamine | COC=1C(=NC=CC1)CCCCN | C10H16N2O
reactant | 2-nitroamino-5-(4-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC(=C(C(N1)=O)CC1=NC=CC(=C1)CN(C)C)C | C14H18N6O3
product | 2-[4-(3-methoxypyridyl)butyl-amino]-5-(4-dimethylaminomethyl-2-pyridylmethyl)-6-methyl-4-pyrimidone | COC=1C(=NC=CC1)CCCCNC1=NC(=C(C(N1)=O)CC1=NC=CC(=C1)CN(C)C)C | C24H32N6O2
